US04734415
4,5-Dihydro-6-[4-[1,4-dioxa-8-azaspiro[4,5]dec-8-yl]phenyl]-3(2H)-pyridazinone
Following the procedure described in Example 38 but using a molar equivalent quantity of the appropriate 3- and 4-hydroxypiperidine in place of 1,4-dioxa-8-azaspiro[4,5]decane one obtains the suitably substituted γ-oxobenzenebutanoic acids which upon cyclization with hydrazine gives the following compounds: 37b. 4,5-dihydro-6-[4-(4-hydroxy-1-piperidinyl)phenyl]-3(2H)-pyridazinone, mp 262°-263° C. 37c. 4,5-Dihydro-6-[4-(3-hydroxy-1-piperdinyl)phenyl)-3(2H)-pyridazinone, mp 211°-212° C.

reactant | 4,5-dihydro-6-[4-(4-hydroxy-1-piperidinyl)phenyl]-3(2H)-pyridazinone | OC1CCN(CC1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C15H19N3O2
reactant | 4,5-Dihydro-6-[4-(3-hydroxy-1-piperdinyl)phenyl)-3(2H)-pyridazinone | OC1CN(CCC1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C15H19N3O2
product | 4,5-Dihydro-6-[4-[1,4-dioxa-8-azaspiro[4,5]dec-8-yl]phenyl]-3(2H)-pyridazinone | O1CCOC12CCN(CC2)C2=CC=C(C=C2)C=2CCC(NN2)=O | C17H21N3O3
